US03981905
The starting material was prepared as follows. An Ullmann reaction using p-fluorophenol and p-bromoacetophenone gave 4'-(4-fluorophenoxy)acetophenone, m.p. 65°-67°C. This was subjected to the Willgerodt reaction using morpholine and sulfur, followed by hydrolysis, to give crude 4-(4-fluorophenoxy)phenylacetic acid, which was esterified and gave ethyl 4-(4-fluorophenoxy)phenylacetate, b.p. 139°-142°C./0.3 mm. This ester was treated conventionally with diethyl carbonate and sodium ethoxide, and then with dimethyl sulfate, to yield the required ethyl 2-[4-(4-fluorophenoxy)phenyl]-2-methylmalonate, b.p. 174°-182°C./0.7 mm.

reactant | p-fluorophenol | FC1=CC=C(C=C1)O | C6H5FO
reactant | p-bromoacetophenone | BrC1=CC=C(C=C1)C(C)=O | C8H7BrO
product | 4'-(4-fluorophenoxy)acetophenone | FC1=CC=C(OC2=CC=C(C=C2)C(C)=O)C=C1 | C14H11FO2
